US07253286B2
5-[(2-Amino-4-pyridyl)oxy]-1H-indole
2-Amino-4-chloropyridine (2.0 g), 5-hydroxyindole (4.1 g), sodium hydride (60% in oil, 1.25 g) and dimethylsulfoxide (20 ml) were stirred at 160° C. for 9.5 hours. Water was added, extraction was performed with ethyl acetate, and purification was performed by silica gel column chromatography (hexane:ethyl acetate=1:1, ethyl acetate). The solvent was distilled off under reduced pressure, a small amount of ethyl acetate was added to the residue and the solid was filtered out to obtain 490 mg of a light brown solid.

reactant | 2-Amino-4-chloropyridine | 2.0 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | 5-hydroxyindole | 4.1 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | sodium hydride | 1.25 g | [H-].[Na+]
reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | 5-[(2-Amino-4-pyridyl)oxy]-1H-indole | 490 mg | NC1=NC=CC(=C1)OC=1C=C2C=CNC2=CC1 | C13H11N3O
